US05977141
(S)-2-{4-[-4-(3-Hydroxy-phenyl)-piperazin-1-yl]-benzenesulfonylamino}-3-phenyl-propionic acid hydro-bromide
To a stirred suspension of (S)-2-{4-[4-(3-methoxy-phenyl)-piperazin-1-yl]-benzenesulfonylamino}-3-phenyl-propionic acid (0.103 g, 0.000208 mol) in dichloromethane (2 mL) at -78° C. under nitrogen was added dropwise a 1.0 M solution of boron tribromide in dichloromethane (1.0 mL, 0.0010 mol). The mixture was stirred for 15 minutes at -78° C. and then allowed to warm to +3° C. After 6 hours, the reaction mixture was diluted with water. The resulting suspension was stirred overnight. The solids were filtered off, washed with additional water, and dried in vacuo to give the title compound as an off-white solid; yield 0.069 g (69%), mp=229-230° C.

reactant | (S)-2-{4-[4-(3-methoxy-phenyl)-piperazin-1-yl]-benzenesulfonylamino}-3-phenyl-propionic acid | 0.000208 mol, 0.103 g | COC=1C=C(C=CC1)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C26H29N3O5S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 0.0010 mol, 1.0 mL | ClCCl | CH2Cl2
product | (S)-2-{4-[-4-(3-Hydroxy-phenyl)-piperazin-1-yl]-benzenesulfonylamino}-3-phenyl-propionic acid hydro-bromide | Br.OC=1C=C(C=CC1)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | InChI=1S/C25H27N3O5S.BrH/c29-22-8-4-7-21(18-22)28-15-13-27(14-16-28)20-9-11-23(12-10-20)34(32,33)26-24(25(30)31)17-19-5-2-1-3-6-19;/h1-12,18,24,26,29H,13-17H2,(H,30,31);1H/t24-;/m0./s1
